US07576215B2
METHYL-4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)-3-METHOXYBENZOATE
The title compound was prepared from [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone and 4-Bromomethyl-3-methoxy-benzoic acid methyl ester following the procedure of Example 478: mp 60-63° C.; MS (ES) m/z 571.9; HRMS: calcd for C33H24F3NO5+H+, 572.16793; found (ESI, [M+H]+), 572.1708.

reactant | [4-(3-hydroxyphenyl)-8-(trifluoromethyl)quinolin-3-yl](phenyl)methanone | OC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C23H14F3NO2
reactant | 4-Bromomethyl-3-methoxy-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CBr)OC)=O | C10H11BrO3
product | METHYL-4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENOXY}METHYL)-3-METHOXYBENZOATE | COC(C1=CC(=C(C=C1)COC1=CC(=CC=C1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(C1=CC=CC=C1)=O)OC)=O | C33H24F3NO5
